US05162316
4,7-Dioxo-2-(2-propoxyphenyl)-3,4,7,8-tetrahydropyrimido[4,5-d]pyrimidine
7-Methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine (0.66 g) and methanol (0.26 g) were added to a stirring suspension of sodium hydride (0.38 g, 50% suspension in oil) in dry dimethylsulphoxide (15 ml). The mixture was stirred at ambient temperature for 1.5 hours and at 70°-80° C. for 18 hours. The cooled reaction mixture was poured into water (500 ml), then glacial acetic acid (0.46 ml) was added and the mixture was extracted with chloroform (20o ml and then 2×100 ml). The combined extracts were washed with water, dried (magnesium sulphate) and evaporated under reduced pressure to yield a solid which was washed successively with ether and 40°-60° petroleum ether and recrystallised from dimethylformamide: water to yield a crude product (0.18 g). This together with another sample (0.24 g) similarly prepared was eluted from a silica column with chloroform and 10% methanol in chloroform. The combined fractions containing product were evaporated under reduced pressure and the residue recrystallised from dimethylformamide dilute hydrochloric acid and then from dimethylformamide to yield the title compound, 0.15 g, m.p. 271°-3° C. (decomposition).

reactant | 7-Methylthio-4-oxo-2-(2-propoxyphenyl)-3,4-dihydropyrimido[4,5-d]pyrimidine | 0.66 g | CSC1=NC=C2C(=N1)N=C(NC2=O)C2=C(C=CC=C2)OCCC | C16H16N4O2S
reactant | methanol | 0.26 g | CO | CH4O
reactant | sodium hydride | 0.38 g | [H-].[Na+]
reactant | water | 500 ml | O | H2O
solvent | dimethylsulphoxide | 15 ml | CS(=O)C | C2H6OS
solvent | acetic acid | 0.46 ml | C(C)(=O)O | C2H4O2
product | 4,7-Dioxo-2-(2-propoxyphenyl)-3,4,7,8-tetrahydropyrimido[4,5-d]pyrimidine | O=C1NC(=NC=2NC(N=CC21)=O)C2=C(C=CC=C2)OCCC | C15H14N4O3
